US07291631B2
To a solution of N-(4-cyano-2-hydroxymethyl-benzyl)-N-(3,5-dimethyl-pyridin-2-ylmethyl)-2-nitro-benzene-sulfonamide (0.82 g, 1.76 mmol) dissolved in DMF (35 mL) was added K2CO3 (1.21 g, 8.75 mmol) and thiophenol (0.54 mL, 5.28 mmol). The mixture was stirred at room temperature for 3 hours then concentrated in vacuo and redissolved in CH2Cl2 (50 mL). The mixture was filtered through a celite plug and the filtrate was concentrated in vacuo to afford a yellow solid. Purification by column chromatography on silica gel (hexane:EtOAc, 4:1, v/v →EtOAc) afforded 4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-methyl}-3-hydroxymethyl-benzonitrile (0.176 g, 35%) as a yellow solid. 1H NMR (CDCl3) δ 2.20 (s, 3H), 2.28 (s, 3H), 3.82 (s, 2H), 3.99 (s, 2H), 4.65 (s, 2H), 7.26 (s, 1H), 7.36 (d, 1H, J=6.0 Hz), 7.55 (d, 1H, J=6.0 Hz), 7.64 (s, 1H), 8.20 (s, 1H).

reactant | N-(4-cyano-2-hydroxymethyl-benzyl)-N-(3,5-dimethyl-pyridin-2-ylmethyl)-2-nitro-benzene-sulfonamide | 1.76 mmol, 0.82 g | C(#N)C1=CC(=C(CN(S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])CC2=NC=C(C=C2C)C)C=C1)CO | C23H22N4O5S
reactant | K2CO3 | 8.75 mmol, 1.21 g | C(=O)([O-])[O-].[K+].[K+]
reactant | thiophenol | 5.28 mmol, 0.54 mL | C1(=CC=CC=C1)S | C6H6S
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | 4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-methyl}-3-hydroxymethyl-benzonitrile | 0.176 g, 35% | CC=1C(=NC=C(C1)C)CNCC1=C(C=C(C#N)C=C1)CO | C17H19N3O
